US06207678B1
2-(3,4-Dichlorophenyl)-4-(tetrahydropyran-2-yloxy)butanenitrile (20.2 g) (see Preparation 26) was dissolved in anhydrous toluene (300 ml) and cooled to −78° C. under a nitrogen atmosphere. Diisobutylaluminium hydride (85.6 ml of a 1.0 M solution in toluene) was then added dropwise. The mixture was stirred at −78° C. for 1.5 hours and then allowed to warm slowly to −40° C. Water (100 ml) and saturated aqueous ammonium chloride solution (50 ml) were carefully added (exothermic reaction) and the mixture allowed to warm to 10° C. before further addition of water (100 ml) and saturated aqueous ammonium chloride solution (50 ml). A 10% w/w aqueous solution of Rochelle's salt (potassium sodium tartrate tetrahydrate) (400 ml) was added and the mixture extracted with diethyl ether. The organic phase was dried over anhydrous sodium sulphate and the solvent removed under reduced pressure to give a crude product. This was chromatographed on silica gel eluting with 98:2, by volume, dichloromethane:methanol to give 2-(3,4-dichlorophenyl)-4-(tetrahydropyran-2-yloxy)butan-1-al (17.02 g) as a yellow oil and as a mixture of diastereomers.

reactant | 2-(3,4-Dichlorophenyl)-4-(tetrahydropyran-2-yloxy)butanenitrile | 20.2 g | ClC=1C=C(C=CC1Cl)C(C#N)CCOC1OCCCC1 | C15H17Cl2NO2
reactant | Diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
reactant | Rochelle's salt | 400 ml | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 ml | O | H2O
solvent | Water | 100 ml | O | H2O
product | 2-(3,4-dichlorophenyl)-4-(tetrahydropyran-2-yloxy)butan-1-al | 17.02 g | ClC=1C=C(C=CC1Cl)C(C=O)CCOC1OCCCC1 | C15H18Cl2O3
